US05861401
2,4-Dichloro-5-nitropyrimidine (9.7 g), prepared using the procedure in J. Chem. Soc., 1951, 1565, was added to a solution of sodium methoxide in methanol (obtained from sodium (2.8 g) and methanol (50 ml)) at 0°-5° C. The mixture was heated at reflux for 2 hours and poured onto ice water (200 ml). The suspended solid was collected by filtration and dried under vacuum to give 2,4-dimethoxy-5-nitropyrimidine (7.6 g) as a solid, m.p. 92°-93° C.

reactant | 2,4-Dichloro-5-nitropyrimidine | 9.7 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 50 ml, 2.8 g | CO | CH4O
product | 2,4-dimethoxy-5-nitropyrimidine | 7.6 g | COC1=NC=C(C(=N1)OC)[N+](=O)[O-] | C6H7N3O4
